US07157604B2
A solution of 2-fluoroaniline (53 g, 477 mmol) in tetrahydrofuran (500 mL) was treated with di-tert-butyl dicarbonate (104 g, 477 mmol). The resulting solution was stirred under a nitrogen atmosphere and heated in an oil bath at 60° C. for 3 days. After cooling to room temperature, the reaction mixture was partitioned between EtOAc and 1M citric acid. The organic portion was washed with 1M citric acid, dried over MgSO4, filtered through a pad of silica, and evaporated under vacuum. The crude product was desolved in hexane and the solid by-product was filtered off and rinsed with a mixture of hexane and CH2Cl2. The filtrate was evaporated under vacuum to give tert-butyl 2-fluorophenylcarbamate (99.5 g, 98%) as a yellow solid.

reactant | 2-fluoroaniline | 477 mmol, 53 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | di-tert-butyl dicarbonate | 477 mmol, 104 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-fluorophenylcarbamate | 99.5 g, 98% | FC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C11H14FNO2
